US06265439B1
Step (a): Preparation of 2,6-difluoro-α-(1-methylethyl)benzeneacetonitrile
A mixture of 2,6-difluorophenylacetonitrile (10.0 g, 65.4 mmoles), 50% aqueous sodium hydroxide (4.6 g), sodium hydroxide (653 mg), tetra-n-butylammonium bromide (2.90 g and 2-bromopropane (8.85 g, 71.9 mmoles) was stirred while heating to 80-85 over 1.0 hours, and then maintained at that temperature for 2.0 hours. After cooling, the mixture was partitioned between diethyl ether and water, the aqueous layer extracted with ether and the combined organic extracts washed with brine, dried over magnesium sulfate, filtered and the solvent evaporated. The residue was distilled to give a product compound (9.64 g) as a water-white liquid, b.p. 92-94° (3 mm) which was characterized by NMR as follows: 11H NMR(CDCl)3 d 7.32(m, 1H), 6.95(m, 2H), 3.84(d, 1H), 2.32(m, 1H), 1.24(d, 3H), 0.89(d, 3H).

reactant | 2,6-difluorophenylacetonitrile | 65.4 mmoles, 10.0 g | FC1=C(C(=CC=C1)F)CC#N | C8H5F2N
reactant | sodium hydroxide | 4.6 g | [OH-].[Na+]
reactant | sodium hydroxide | 653 mg | [OH-].[Na+]
reactant | 2-bromopropane | 71.9 mmoles, 8.85 g | BrC(C)C | C3H7Br
catalyst | tetra-n-butylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2,6-difluoro-α-(1-methylethyl)benzeneacetonitrile | 9.64 g | FC1=C(C(=CC=C1)F)C(C#N)C(C)C | C11H11F2N
